* Frozen netlist snapshot for record 20260817-100354-0e9cfc9
* sources    : vco.spice + tb_output_driver.sp (composed at record time, in this order)
* sha256     : 088070466164510a0ec5f4e2661a595a7597b7f7a817712432d77412e0d974e8 (of this composed text)
* This is a verbatim composition taken at record time. Do not edit.

* ---- design/netlist/vco.spice (sha256 3d8bf1b307d7b230808c86b318262822fdf525c2503724609bdf51d1b1cc2d31)
* gf180-pll :: VCO netlist exported from design/vco.sch by design/netlist.sh
* Do not edit by hand -- edit the schematics and re-run design/netlist.sh.
** sch_path: design/vco.sch
.subckt vco VCTRL B0 B1 B2 CLK VDD_VCO GND_VCO
*.ipin VCTRL
*.ipin B0
*.ipin B1
*.ipin B2
*.opin CLK
*.iopin VDD_VCO
*.iopin GND_VCO
XBIAS VCTRL B0 B1 B2 VBP VBN VDD_VCO GND_VCO vco_bias
XS1 Y5 Y1 VDD_VCO GND_VCO VBP VBN vco_stage
XS2 Y1 Y2 VDD_VCO GND_VCO VBP VBN vco_stage
XS3 Y2 Y3 VDD_VCO GND_VCO VBP VBN vco_stage
XS4 Y3 Y4 VDD_VCO GND_VCO VBP VBN vco_stage
XS5 Y4 Y5 VDD_VCO GND_VCO VBP VBN vco_stage
XMBP1 NB1 Y5 VDD_VCO VDD_VCO pfet_03v3 L=0.28u W=1.25u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBN1 NB1 Y5 GND_VCO GND_VCO nfet_03v3 L=0.28u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBP2 NB2 NB1 VDD_VCO VDD_VCO pfet_03v3 L=0.28u W=3.75u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBN2 NB2 NB1 GND_VCO GND_VCO nfet_03v3 L=0.28u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBP3 CLK NB2 VDD_VCO VDD_VCO pfet_03v3 L=0.28u W=11.25u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBN3 CLK NB2 GND_VCO GND_VCO nfet_03v3 L=0.28u W=4.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCDEC1 VDD_VCO GND_VCO cap_nmos_03v3 c_width=50u c_length=50u m=1
XCDEC2 VDD_VCO GND_VCO cap_nmos_03v3 c_width=50u c_length=50u m=1
.ends

* expanding   symbol:  vco_bias.sym # of pins=8
** sym_path: design/vco_bias.sym
** sch_path: design/vco_bias.sch
.subckt vco_bias VCTRL B0 B1 B2 VBP VBN VDD VSS
*.ipin VCTRL
*.ipin B0
*.ipin B1
*.ipin B2
*.iopin VBP
*.iopin VBN
*.iopin VDD
*.iopin VSS
XMP1 NA VBPC VDD VDD pfet_03v3 L=1u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP2 VBPC VBPC VDD VDD pfet_03v3 L=1u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN1 NA NA VSS VSS nfet_03v3 L=1u W=1.4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN2 VBPC NA NC VSS nfet_03v3 L=1u W=5.6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRCG NC VSS VSS ppolyf_u_3k r_width=1u r_length=5.6u m=1
XMSU1 NSU VSS VDD VDD pfet_03v3 L=20u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSU2 NSU NA VSS VSS nfet_03v3 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSU3 VBPC NSU VSS VSS nfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPR VFIX VBPC VDD VDD pfet_03v3 L=1u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMD1 VFIX VFIX NMD VSS nfet_03v3 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMD2 NMD NMD VSS VSS nfet_03v3 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMOFF VBP0 VFIX NOFF VSS nfet_03v3 L=1u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XROFF NOFF VSS VSS ppolyf_u_3k r_width=1u r_length=33u m=1
XMVI VBP0 VCTRL NVI VSS nfet_03v3 L=1u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRDEG NVI VSS VSS ppolyf_u_3k r_width=1u r_length=33u m=1
XMSUM VBP0 VBP0 VDD VDD pfet_03v3 L=1u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMIP0 B0B B0 VDD VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMIN0 B0B B0 VSS VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMIP1 B1B B1 VDD VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMIN1 B1B B1 VSS VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMIP2 B2B B2 VDD VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMIN2 B2B B2 VSS VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMA0 VBN1 VBP0 VDD VDD pfet_03v3 L=1u W=26.5u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMA1 VBN1 GA VDD VDD pfet_03v3 L=1u W=17.225u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSWA0 GA B0B VBP0 VDD pfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSWA1 GA B0 VDD VDD pfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDA VBN1 VBN1 VSS VSS nfet_03v3 L=1u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMB0 VBP2 VBN1 VSS VSS nfet_03v3 L=1u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMB1 VBP2 GB VSS VSS nfet_03v3 L=1u W=8.6125u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSWB0 GB B1 VBN1 VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSWB1 GB B1B VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDB VBP2 VBP2 VDD VDD pfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC0 VBN VBP2 VDD VDD pfet_03v3 L=1u W=12.3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC1 VBN GC VDD VDD pfet_03v3 L=1u W=78.87u nf=8 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSWC0 GC B2B VBP2 VDD pfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSWC1 GC B2 VDD VDD pfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDN VBN VBN VSS VSS nfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMMN VBP VBN VSS VSS nfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDP VBP VBP VDD VDD pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  vco_stage.sym # of pins=6
** sym_path: design/vco_stage.sym
** sch_path: design/vco_stage.sch
.subckt vco_stage A Y VDD VSS VBP VBN
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
*.iopin VBP
*.iopin VBN
XMPH NH VBP VDD VDD pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP Y A NH VDD pfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN Y A NT VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNT NT VBN VSS VSS nfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

* ---- sim/output-driver/testbench/tb_output_driver.sp (sha256 aab77c45936a5a100549c0437dab7ea5f36d60d2f772dbf6a9d3f3380671e3b5)
* gf180-pll :: output-driver :: loaded output duty-cycle / levels-and-drive
* testbench (#144)
*
* WHAT THIS DECK MEASURES. spec/pll.md's "Verification owed" table lists two
* unmeasured rows for the buffered VCO output: Output duty cycle (target
* 45-55 % at CLK) and Output levels and drive (target V_OH >= 0.9*VDD_VCO,
* V_OL <= 0.1*VDD_VCO, driving <= 50 fF external load). Every frequency
* sim/vco-tuning-range has ever recorded is at CLK with essentially no load
* on it -- this deck is the first to put a representative load on CLK and
* read duty cycle and levels off the loaded waveform, plus the loaded 10-90 %
* edge rate as the drive-strength proxy (the same proxy sim/devchar-delay
* uses for its fan-out-1 chain: a stronger driver produces a faster edge into
* a fixed load capacitance).
*
* DUT: design/netlist/vco.spice's `vco` subcircuit (bias generator + 3-bit
* band-select mirror chain + 5-stage current-starved ring + 3-stage tapered
* output buffer + on-chip decap), the SAME block sim/vco-tuning-range
* characterizes, composed ahead of this fragment via tb.json's `dut` key.
* One instance only (unlike vco-tuning-range's seven-copies-per-deck
* topology): this campaign's independent variable is a `sweeps` axis (band +
* control voltage), not something worth co-simulating in one deck.
*
* LOAD NETWORK. `cload`, an ideal 50 fF capacitor from CLK to GND_VCO --
* spec/pll.md's own budget number ("<= 50 fF of external load plus the
* on-die divider input"). The on-die divider's own input capacitance is
* NOT separately added (see this record's Limitations): it is a real,
* additional load this deck does not model, so every number here is
* mildly optimistic relative to the assembled chip.
*
* OPERATING POINTS -- band0/Vctrl=0.9V and band7/Vctrl=2.7V, i.e. the two
* extremes of the ratified Vctrl window at the two extreme band codes, are
* the SAME fixed points sim/vco-tuning-range's own tb_vco_tuning.sp sweeps
* (see that deck's sw1hi/sw1lo/sw7hi/sw7lo output-swing measures) -- reused
* here rather than re-targeting the ratified 10/200 MHz band edges by
* per-corner interpolation, because the duty/level claim being tested is
* about the RING'S OWN edge-rate extremes (slowest starved edges at band0's
* floor, fastest at band7's ceiling), which is exactly what tb.json's
* `sweeps.edge` axis selects. spec/pll.md's own design basis for the duty
* target states the expected binding condition is "the bottom of the band,
* where the starved ring's internal edges are slowest" -- band0/Vctrl=0.9V
* IS that condition; band7/Vctrl=2.7V is the opposite extreme, included so
* the record brackets both ends rather than reporting only the expected
* worst case.
*
* Expects from the harness-generated header (see sim/harness/testbench.py):
*   vdd_val   supply for this PVT point        vdd_nom  nominal supply
*   temp_c    temperature for this PVT point (also applied via .temp)
* and from tb.json's `params` / `sweeps.edge`:
*   b0_code, b1_code, b2_code   VCO 3-bit band-select code (0 or 1 each)
*   vctrl                       fixed control voltage for this edge point
*   ktstep, ktstop, ktmax       transient controls, sized per edge point
*   tsettle                     bias/ring start-up time to exclude from
*                                every measurement window

.param cload=50f

*--------------------------------------------------------------------- bias
vvddvco vddvco 0 dc 'vdd_val'
vb0     b0     0 dc 'vdd_val*b0_code'
vb1     b1     0 dc 'vdd_val*b1_code'
vb2     b2     0 dc 'vdd_val*b2_code'
vvctrl  vctrl  0 dc 'vctrl'

*--------------------------------------------------------------------- DUT
xdut vctrl b0 b1 b2 clk vddvco 0 vco

*---------------------------------------------------------- external load
cload clk 0 'cload'

* Break the ring's DC symmetry so the operating point is not the metastable
* all-nodes-at-mid solution; the constraint is released when the transient
* starts. `uic` is deliberately NOT used: the bias generator must be solved
* to its operating point before t=0 -- same convention as
* sim/vco-tuning-range's tb_vco_tuning.sp.
.ic v(xdut.Y1)=0 v(xdut.Y2)='vdd_val' v(xdut.Y3)=0 v(xdut.Y4)='vdd_val' v(xdut.Y5)=0
